US05616599
22(a) Ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylate
Following a procedure similar to that described in Example 18(a), but using 0.26 g of ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate (prepared as described in Preparation 8), 45.5 mg of sodium hydride (as a 55% w/w dispersion in mineral oil) and 0.63 g of 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide, 0.2 8 g of the title compound were obtained as an oil.

reactant | ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)imidazole-5-carboxylate | 0.26 g | C(CCC)C=1NC(=C(N1)C(C)(C)O)C(=O)OCC | C13H22N2O3
reactant | sodium hydride | 45.5 mg | [H-].[Na+]
reactant | 4-[2-(trityltetrazol-5-yl)phenyl]benzyl bromide | 0.63 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(CBr)C=C1 | C33H25BrN4
product | Ethyl 2-butyl-4-(1-hydroxy-1-methylethyl)-1-{4-[2-(trityltetrazol-5-yl)phenyl]phenyl}methylimidazole-5-carboxylate | C(CCC)C=1N(C(=C(N1)C(C)(C)O)C(=O)OCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H46N6O3
